US07390806B2
3-Cyanophenylboronic acid ethylene glycol ester (3a)
3-Cyanophenyl boronic acid (1 g, 6.8 mmol) was dissolved in dry THF (10 mL) under nitrogen. Ethylene glycol (379 μL, 422 mg, 6.8 mmol) was added and the reaction was heated to reflux for 4 hours then cooled to room temperature. THF was removed by rotary evaporator to give a white solid. Cold hexane was added and the product was collected by filtration giving a white solid (1.18 g, quant. yield). 1H-NMR (300.058 MHz, DMSO-d6) δ ppm 7.92-8.01 (3H, m), 7.50-7.64 (1H, m), 4.35 (4H, s)

reactant | 3-Cyanophenyl boronic acid | 6.8 mmol, 1 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Ethylene glycol | 6.8 mmol, 379 μL, 422 mg | C(CO)O | C2H6O2
reactant | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Cyanophenylboronic acid ethylene glycol ester | 1.18 g, quant. yield | B(C1=CC(=CC=C1)C#N)(O)OCCO | C9H10BNO3
